US06352982B1
A tetrahydrofuran (15 ml) solution of N-methyl-N-methyloxy-2-amino-5-methyloxy-benzamide (0.35 g) and N-tert-butoxycarbonyl-3-bromobenzylamine (0.48 g) was cooled to −70° C. To the solution was added dropwise, while stirring, a hexane solution of n-butyl lithium (1.6 mol/L) (6.2 ml) over 20 minutes. To the mixture were then added water (40 ml) and ethyl acetate (40 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography to give 2-amino-3-tert-butoxycarbonylaminomethyl-5-methyloxy-benzophenone as a yellow oily product (0.18 g).

reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | N-methyl-N-methyloxy-2-amino-5-methyloxy-benzamide | 0.35 g | CN(C(C1=C(C=CC(=C1)OC)N)=O)OC | C10H14N2O3
reactant | N-tert-butoxycarbonyl-3-bromobenzylamine | 0.48 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)Br | C12H16BrNO2
reactant | n-butyl lithium | 1.6 mol/L, 6.2 ml | C(CCC)[Li]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-amino-3-tert-butoxycarbonylaminomethyl-5-methyloxy-benzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1CNC(=O)OC(C)(C)C)OC | C20H24N2O4
